US06576303B1
1-Iodomethyl-4-(4-pentylcyclohexyl)cyclohexane (9.8 g, 26 mmol) was reacted with 4-ethoxy-3-fluorophenol (3.7 g, 24 mmol) in THF (60 ml) in the presence of NaH (ca. 24 mmol) used as a base. After treatment was carried out by the same method as in Example 3 to obtain 1-ethoxy-2-fluoro-4-(4-(4-pentylcyclohexyl)cyclohexyl)methyloxybenzene (yield: 39%).

reactant | 1-Iodomethyl-4-(4-pentylcyclohexyl)cyclohexane | 26 mmol, 9.8 g | ICC1CCC(CC1)C1CCC(CC1)CCCCC | C18H33I
reactant | 4-ethoxy-3-fluorophenol | 24 mmol, 3.7 g | C(C)OC1=C(C=C(C=C1)O)F | C8H9FO2
reactant | NaH | ca. 24 mmol | [H-].[Na+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1-ethoxy-2-fluoro-4-(4-(4-pentylcyclohexyl)cyclohexyl)methyloxybenzene | yield: 39% | C(C)OC1=C(C=C(C=C1)OCC1CCC(CC1)C1CCC(CC1)CCCCC)F | C26H41FO2
